### ISSUE TITLE
[Lean] Panic-freedom tutorial example is broken

### ISSUE THREAD

**Issue by septract** [cryspen/hax#1745]
The [Lean panic-freedom example](https://hax.cryspen.com/manual/lean/tutorial/panic-freedom/) in the tutorial appears to be broken in two ways: 
* Missing shoulder-angle brackets: `⌜ ... ⌝`
* Uses `UInt8.HaxMul_spec_bv_rw` which seems to have been deleted 

Here's a version which seems to work (Claude + I couldn't figure out a way to do this that used the existing lemmas): 

```
-- Restore the missing instHaxMul and theorem from old Hax version (commit ccb89284)
namespace UInt8

instance instHaxMul : HaxMul UInt8 where
  mul x y :=
    if (BitVec.umulOverflow x.toBitVec y.toBitVec) then .fail .integerOverflow
    else pure (x * y)

theorem HaxMul_spec_bv_rw (x y: u8) :
   ¬ (BitVec.umulOverflow x.toBitVec y.toBitVec) →
   x *? y = Result.ok (x * y)
:= by simp [instHaxMul]

end UInt8

-- Our working proof using the restored theorem
theorem square_spec (value: u8) :
  ⦃ ⌜ Playground.Square._.requires (value) = pure true ⌝ ⦄
  (Playground.Square.square value)
  ⦃ ⇓ result => ⌜ Playground.Square.__1.ensures value result = pure true ⌝ ⦄
  := by
  mvcgen
  simp [Playground.Square._.requires, Playground.Square.__1.ensures, Playground.Square.square] at *
  intros
  rw [UInt8.HaxMul_spec_bv_rw]
  simp
  bv_decide
```

As already raised in #1632, could I suggest adding your tutorial examples to continuous integration?

**Comment by clementblaudeau** [comment]
Indeed! Thanks for the report. The bump of Lean version changed the syntax of pre/post conditions, which broke the example. I'll fix it asap. And, indeed, we should try to put that on CI

**Comment by W95Psp** [comment]
Thanks for the report!

Just a note: the tutorial examples [are actually in CI already](https://github.com/cryspen/hax/pull/1690), but the job is failing (see e.g. https://github.com/cryspen/hax/actions/runs/18826038396).
That CI job checks the website of hax works correctly; e.g. no broken links and no broken examples.

To check examples are working correctly, we leverage our playground. Unfortunately, running Lean is currently not working on the playground, which breaks our CI.

I will look into the playground this week to restore our CI so that we notice Lean breakages :)

**Comment by maximebuyse** [comment]
@abentkamp Could you check the status of the tutorial examples, and see if we can switch to the new style for annotations.

**Comment by abentkamp** [comment]
Works now.
